US05834499
Example 2 2-(2-Phthalimidoethyl)-8H-indeno[1,2-d]thiazole Starting compound
2-Bromo-1-indanone, 3-phthalimidopropanethioamide

reactant | 2-Bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 3-phthalimidopropanethioamide | C1(C=2C(C(N1CCC(N)=S)=O)=CC=CC2)=O | C11H10N2O2S
product | 2-(2-Phthalimidoethyl)-8H-indeno[1,2-d]thiazole | C1(C=2C(C(N1CCC=1SC3=C(N1)C=1C=CC=CC1C3)=O)=CC=CC2)=O | C20H14N2O2S
